US06191285B1
Ketorolac acid (20 gm, Abbott Laboratories) was dissolved in 145 mL isopropanol. In a separate container, 10 gm of tromethamine (Aldrich Chemical Co.) was dissolved in 20 mL distilled water. The two mixtures were combined, mixed for 30 minutes then vacuum distilled under heat. Distillation was continued until approximately one half the volume remained, e.g., about 80 mL. Isopropanol (145 mL) was added and distillation continued until one half the volume remained, whereupon 270 mL of ethyl acetate was added and distillation of the ternary mixture continued. Upon removal of one-half the distillate, the ethyl acetate addition was repeated. When the volume was again brought to one half the starting volume, distillation was terminated. The solution was cooled to 10° C. and the solid ketorolac tromethamine isolated by filtration. The collected solids were dried under vacuum to afford 25 gm of the desired product. HPLC analysis showed purity of >99% of the desired compound.

reactant | Ketorolac | 20 gm | C=1C=CC(=CC1)C(=O)C2=CC=C3N2CCC3C(=O)O | C15H13NO3
reactant | tromethamine | 10 gm | NC(CO)(CO)CO | C4H11NO3
solvent | isopropanol | 145 mL | C(C)(C)O | C3H8O
product | ketorolac tromethamine | C=1C=CC(=CC1)C(=O)C2=CC=C3N2CCC3C(=O)O.C(C(CO)(CO)N)O | InChI=1S/C15H13NO3.C4H11NO3/c17-14(10-4-2-1-3-5-10)13-7-6-12-11(15(18)19)8-9-16(12)13;5-4(1-6,2-7)3-8/h1-7,11H,8-9H2,(H,18,19);6-8H,1-3,5H2
